US09315521B2
6-methyl-2-{[(1-methyl-1H-imidazol-5-yl)methyl]sulfanyl}pyrimidin-4-ol, (252 mg, 1.1 mmol) was stirred in methanol (30 mL), and a solution of 4N HCl in dioxane (400 μL, 1.6 mmol) was added dropwise at 0° C. The mixture was stirred for 1 hour at room temperature. The solvent was removed by evaporation, and the residue was triturated with diethyl ether and dried in vacuo to afford to 6-methyl-2-{[(1-methyl-1H-imidazol-5-yl)methyl]sulfanyl}pyrimidin-4-ol hydrochloride (281 mg, 96% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.24 (s, 3H), 3.88 (s, 3H), 4.50 (s, 2H), 6.15 (bs, 1H), 7.65 (s, 1H), 9.09 (s, 1H); LRMS (ES+) m/z 237 (70%, M+1).

reactant | 6-methyl-2-{[(1-methyl-1H-imidazol-5-yl)methyl]sulfanyl}pyrimidin-4-ol | 1.1 mmol, 252 mg | CC1=CC(=NC(=N1)SCC1=CN=CN1C)O | C10H12N4OS
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 1.6 mmol, 400 μL | O1CCOCC1 | C4H8O2
solvent | methanol | 30 mL | CO | CH4O
product | 6-methyl-2-{[(1-methyl-1H-imidazol-5-yl)methyl]sulfanyl}pyrimidin-4-ol hydrochloride | 281 mg, 96% yield | Cl.CC1=CC(=NC(=N1)SCC1=CN=CN1C)O | InChI=1S/C10H12N4OS.ClH/c1-7-3-9(15)13-10(12-7)16-5-8-4-11-6-14(8)2;/h3-4,6H,5H2,1-2H3,(H,12,13,15);1H
